### PR TITLE
[Merged by Bors] - feat(Dynamics/BirkhoffSum/Average): add lemma `birkhoffAverage_of_invariant`

### PR DESCRIPTION
**Pull request by oliver-butterley**
If a function `g` is invariant under a function `f` (i.e., `g ∘ f = g`), then the Birkhoff average of `g` over `f` for `n` iterations is equal to `g`. Requires that `n ≠ 0`. 

Co-authored-by: Lua Viana Reis <me@lua.blog.br>

- [x] depends on: #26810

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Dynamics/BirkhoffSum/Average.lean [hunk 1]
```diff
@@ -84,3 +84,13 @@ theorem birkhoffAverage_apply_sub_birkhoffAverage {α M : Type*} (R : Type*) [Di
     birkhoffAverage R f g n (f x) - birkhoffAverage R f g n x =
       (n : R)⁻¹ • (g (f^[n] x) - g x) := by
   simp only [birkhoffAverage, birkhoffSum_apply_sub_birkhoffSum, ← smul_sub]
+
+/-- If a function `g` is invariant under a function `f` (i.e., `g ∘ f = g`), then the Birkhoff
+average of `g` over `f` for `n` iterations is equal to `g`. Requires that `0 < n`. -/
+theorem birkhoffAverage_of_invariant {α M : Type*} (R : Type*) [DivisionRing R] [AddCommMonoid M]
+    [Module R M] [CharZero R] {f : α → α} {g : α → M} (h : g ∘ f = g) {n : ℕ} (hn : 0 < n) :
```
Comment (ocfnash) [inline Mathlib/Dynamics/BirkhoffSum/Average.lean]: For hypotheses we prefer `n ≠ 0` (easier to supply) and for conclusions we prefer `0 < n` (more useful) so:
```suggestion
theorem birkhoffAverage_of_comp_eq {α M : Type*} (R : Type*) [DivisionRing R] [AddCommMonoid M]
    [Module R M] [CharZero R] {f : α → α} {g : α → M} (h : g ∘ f = g) {n : ℕ} (hn : n ≠ 0) :
```

Comment (ocfnash) [reply Mathlib/Dynamics/BirkhoffSum/Average.lean]: After this, if you like you can finish with:
```lean
  rw [← Nat.cast_smul_eq_nsmul (R := R), ← mul_smul, inv_mul_cancel₀ (by norm_cast), one_smul]
```

**Review by ocfnash — COMMENTED** [review]
Thanks!

Aside from the nitpick suggested, it would be nice to share `variables` between `birkhoffAverage_apply_sub_birkhoffAverage` and the new lemma `birkhoffAverage_of_comp_eq`

bors d+

**Comment by oliver-butterley** [comment]
Results placed in section with variables shared between them and other results.
Simplified proof following suggestion.

**Comment by oliver-butterley** [comment]
bors merge
